US07371869B2
To a solution of 2-[(S)-2-[4-(4-methylsulfanyl-phenyl)-2,5-dioxo-imidazolidin-1-yl]-3-(2-trifluoromethyl-phenyl)-propionylamino]-thiazole-4-carboxylic acid methyl ester (95 mg, 0.16 mmol) in dichloromethane (15 mL) was added 3-chloroperbenzoic acid (75% purity) (45 mg, 0.19 mmol) at 0° C. After stirring for 10 minute the reaction mixture was partitioned between ethyl acetate and saturated aqueous sodium carbonate. The organic layer was dried over sodium sulfate, filtered, concentrated and the residue was purified by chromatography over silica gel eluted with acetone. The isolated material was precipitated from acetone with an excess of hexanes to afford 2-[(S)-2-[4-(4-methanesulfinyl-phenyl)-2,5-dioxo-imidazolidin-1-yl]-3-(2-trifluoromethyl-phenyl)-propionylamino]-thiazole-4-carboxylic acid methyl ester as an amorphous white solid (50 mg, 52%).

reactant | 2-[(S)-2-[4-(4-methylsulfanyl-phenyl)-2,5-dioxo-imidazolidin-1-yl]-3-(2-trifluoromethyl-phenyl)-propionylamino]-thiazole-4-carboxylic acid methyl ester | 0.16 mmol, 95 mg | COC(=O)C=1N=C(SC1)NC([C@H](CC1=C(C=CC=C1)C(F)(F)F)N1C(NC(C1=O)C1=CC=C(C=C1)SC)=O)=O | C25H21F3N4O5S2
reactant | 3-chloroperbenzoic acid | 0.19 mmol, 45 mg | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
solvent | dichloromethane | 15 mL | ClCCl | CH2Cl2
product | 2-[(S)-2-[4-(4-methanesulfinyl-phenyl)-2,5-dioxo-imidazolidin-1-yl]-3-(2-trifluoromethyl-phenyl)-propionylamino]-thiazole-4-carboxylic acid methyl ester | 50 mg, 52% | COC(=O)C=1N=C(SC1)NC([C@H](CC1=C(C=CC=C1)C(F)(F)F)N1C(NC(C1=O)C1=CC=C(C=C1)S(=O)C)=O)=O | C25H21F3N4O6S2
